US07968746B2
Following the amide coupling procedure described in protocol A, 499 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.00 mmol), 357 mg CDI (2.2 mmol) and 569 mg 1-(3-aminopropyl)pyrrolidin-2-one (4.0 mmol) yielded 598 mg of 6-hydroxy-2,5,7,8-tetramethyl-N-(3-(2-oxopyrrolidin-1-yl)propyl)chroman-2-carboxamide as a white powder.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.00 mmol, 499 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.2 mmol, 357 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-(3-aminopropyl)pyrrolidin-2-one | 4.0 mmol, 569 mg | NCCCN1C(CCC1)=O | C7H14N2O
product | 6-hydroxy-2,5,7,8-tetramethyl-N-(3-(2-oxopyrrolidin-1-yl)propyl)chroman-2-carboxamide | 598 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCN1C(CCC1)=O)C)C | C21H30N2O4
